US06420359B1
b) 5-Bromo-N-(2-chloro-6-methyl-3-pyridinyl)-2-(ethylamino)-3-pyridinecarboxamide
A solution of 5-bromo-2-chloro-N-(2-chloro-6-methyl-3-pyridinyl)-3-pyridinecarboxamide (1.7 g, 4.8 mmol) and ethylamine (2M in THF, 10.5 mmol, 5.2 mL) in THF (5 mL) was stirred at 90 to 95° C. in a steel autoclave for 16 h. The resulting mixture was poured into water (100 mL), stirred for 15 min and filtered. The solid was washed with water followed by hexane to give the title compound as a yellow solid (1.58 g, 89% yield).

reactant | 5-bromo-2-chloro-N-(2-chloro-6-methyl-3-pyridinyl)-3-pyridinecarboxamide | 4.8 mmol, 1.7 g | BrC=1C=C(C(=NC1)Cl)C(=O)NC=1C(=NC(=CC1)C)Cl | C12H8BrCl2N3O
reactant | ethylamine | 10.5 mmol, 2M, 5.2 mL | C(C)N | C2H7N
reactant | water | 100 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Bromo-N-(2-chloro-6-methyl-3-pyridinyl)-2-(ethylamino)-3-pyridinecarboxamide | 1.58 g, 89% yield | BrC=1C=C(C(=NC1)NCC)C(=O)NC=1C(=NC(=CC1)C)Cl | C14H14BrClN4O
